US05559113
1-(1H-Imidazol-4-yl)-7-phenylheptan-4-one
5 mmol of 4-(1-(triphenylmethyl)imidazol-4-yl)butanenitrile are introduced into a solution of 3-phenylpropylmagnesium bromide in 300 ml of diethyl ether and 100 ml of tetrahydrofuran and the mixture is brought to reflux for 6 h. Hydrolysis is carried out with an ammonium chloride solution, the organic phase is separated and the aqueous phase is stirred with dichloromethane. The combined and concentrated organic phases are brought to boiling point for 2 h in a 2N aqueous/alcohol (ethanol/water) hydrochloric acid solution. The ethanol is removed under vacuum, filtration is carried out and basification is carried out. The title compound is stirred in dichloromethane and recrystallized in the hydrogenmaleate form from ethanol/diethyl ether.

reactant | 4-(1-(triphenylmethyl)imidazol-4-yl)butanenitrile | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCC#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H23N3
reactant | 3-phenylpropylmagnesium bromide | C1(=CC=CC=C1)CCC[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(1H-Imidazol-4-yl)-7-phenylheptan-4-one | N1C=NC(=C1)CCCC(CCCC1=CC=CC=C1)=O | C16H20N2O
